US09233098B2
3. Preparation of ethyl 2-[3-(4-aminobenzyl)-2-methyl-1H-indol-1-yl]acetate
Into a dry reaction vessel, ethyl 2-[2-methyl-3-(4-nitrobenzyl)-1H-indol-1-yl]acetate (2.7 g, 7.66 mmol) was added, and dissolved in 30 mL methanol. 10% Pd/C 300 mg was added, purged with hydrogen, and reacted overnight. After completion of the reaction, it was filtered, and the filter cake was washed with methanol. The filtrate was rotate evaporated to dryness to obtain a white solid 2.28 g, at a yield of 92.3%.

reactant | ethyl 2-[2-methyl-3-(4-nitrobenzyl)-1H-indol-1-yl]acetate | 7.66 mmol, 2.7 g | CC=1N(C2=CC=CC=C2C1CC1=CC=C(C=C1)[N+](=O)[O-])CC(=O)OCC | C20H20N2O4
solvent | methanol | 30 mL | CO | CH4O
catalyst | Pd/C | 300 mg | [Pd] | Pd
product | ethyl 2-[3-(4-aminobenzyl)-2-methyl-1H-indol-1-yl]acetate | 2.28 g, yield of 92.3% | NC1=CC=C(CC2=C(N(C3=CC=CC=C23)CC(=O)OCC)C)C=C1 | C20H22N2O2
